US05571825
To a suspension of sodium hydride (840 mg of 60% NaH in oil, 21.0 mmol) in 40 mL of tetrahydrofuran is added methyl thioglycolate (1.68 mL, 18.8 mmol). The mixture is stirred at room temperature for 20 minutes. 9-Bromofluorene (Aldrich) (5.23 g, 21.3 mmol) in 30 mL of tetrahydrofuran is added and the reaction mixture is stirred at room temperature overnight then concentrated to dryness. The residue is taken up in ethyl acetate and washed with brine, saturated aqueous sodium bicarbonate, and again with brine. The organic layer is dried over magnesium sulfate, concentrated in vacuo and chromatographed on silica gel, eluting with 10% ethyl acetate in hexane to provide 908 mg (18%) of methyl (9-fluorenylthio)acetate as a colorless oil.

reactant | sodium hydride | 21.0 mmol, 840 mg | [H-].[Na+]
reactant | methyl thioglycolate | 18.8 mmol, 1.68 mL | C(CS)(=O)OC | C3H6O2S
reactant | 9-Bromofluorene | 21.3 mmol, 5.23 g | BrC1C2=CC=CC=C2C=2C=CC=CC12 | C13H9Br
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | methyl (9-fluorenylthio)acetate | 908 mg, 18% | C1=CC=CC=2C3=CC=CC=C3C(C12)SCC(=O)OC | C16H14O2S
